US05210087
9-Amino-3,4-dihydroacridin-1(2H)-one N-oxide
A mixture of 6,7-dihydro-3-(2-nitrophenyl)-1,2-benzisoxazole-4(5H)-one, (7.0 g), 5% palladium-on-carbon (0.7 g), 5% hydrochloric acid (11 ml), and tetrahydrofuran (200 ml) was hydrogenated at 50 psi. After one hr, methanol (1 l) was added, and the mixture was filtered through celite. The filtrate was concentrated, and the concentrate was flash chromatographed (silica, 3-20% methanol/ethyl acetate; 40% methanol/dichloromethane). The appropriate fractions were collected and concentrated. The residue was triturated with methanol/diethyl ether to yield 5.4 g (83%) of product, mp 290° C. (dec).

reactant | 6,7-dihydro-3-(2-nitrophenyl)-1,2-benzisoxazole-4(5H)-one | 7.0 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=NOC2=C1C(CCC2)=O | C13H10N2O4
reactant | hydrochloric acid | 11 ml | Cl | ClH
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 0.7 g | [Pd] | Pd
solvent | methanol | 1 l | CO | CH4O
product | 9-Amino-3,4-dihydroacridin-1(2H)-one N-oxide | 5.4 g, 83% | NC=1C2=CC=CC=C2[N+](=C2CCCC(C12)=O)[O-] | C13H12N2O2
